US05760035
A mixture of 2-bromoethyl 2-methoxyphenyl ether (7.5 g), 4-(2-dimethylaminoethyl)piperidine dihydrochloride (7.44 g), triethylamine (18.1 ml) and DMF (50 ml) was heated on a steam bath for 18 hours. The mixture was poured into ice/water (500 ml) and basified with 2M sodium hydroxide. The product was extracted into dichloromethane to give an oil. The oil was triturated with ether. The ether was decanted off and evaporated to give crude 4-(2-dimethylaminoethyl)-1-[2-(2-methoxyphenoxy)ethyl]piperidine (4.58 g) which was added to glacial acetic acid (17 ml) and 48% hydrobromic acid (57 ml). The mixture was heated on a steam bath for 4 hours and then evaporated to dryness. The residue was dissolved in water, basified with 2M sodium hydroxide solution and extracted with dichloromethane to give an oil. The oil was dissolved in ether and acidified with ethereal hydrogen chloride The precipitate was collected by filtration and recrystallised from propan-2-ol to give 2-{2-[4-(2-dimethylaminoethyl)piperidino]ethoxy}phenol dihydrochloride m.p. 273°-275° C.

reactant | 2-bromoethyl 2-methoxyphenyl ether | 7.5 g | COC1=C(C=CC=C1)OCCBr | C9H11BrO2
reactant | 4-(2-dimethylaminoethyl)piperidine dihydrochloride | 7.44 g | Cl.Cl.CN(CCC1CCNCC1)C
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | hydrobromic acid | 57 ml | Br | BrH
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 18.1 ml | C(C)N(CC)CC | C6H15N
product | 2-{2-[4-(2-dimethylaminoethyl)piperidino]ethoxy}phenol dihydrochloride | Cl.Cl.CN(CCC1CCN(CC1)CCOC1=C(C=CC=C1)O)C | InChI=1S/C17H28N2O2.2ClH/c1-18(2)10-7-15-8-11-19(12-9-15)13-14-21-17-6-4-3-5-16(17)20;;/h3-6,15,20H,7-14H2,1-2H3;2*1H
